US05254558
2-(5-Amino-6-oxo-2-phenyl-1,6-dihydro-1-pyrimidinyl)-N-(2-tert-butyldimethylsilyloxy-3,3,3-trifluoro-1-isopropylpropyl)acetamide and 3-aminomethylpyridine were subjected to a method similar to that described in Example 3.a. Chromatography, with methanol: dichloromethane (5:95) as the eluent, gave 2-[6-oxo-2-phenyl-5-[3-(3-pyridyl)methylureido]-1,6-dihydro-1-pyrimidinyl]-N-(2-tert-butyldimethysilyloxy-3,3,3-trifluoro-1-isopropylpropyl)acetamide as a white solid; MS: m/z=647(M+1).

reactant | 2-(5-Amino-6-oxo-2-phenyl-1,6-dihydro-1-pyrimidinyl)-N-(2-tert-butyldimethylsilyloxy-3,3,3-trifluoro-1-isopropylpropyl)acetamide | NC1=CN=C(N(C1=O)CC(=O)NC(C(C(F)(F)F)O[Si](C)(C)C(C)(C)C)C(C)C)C1=CC=CC=C1 | C24H35F3N4O3Si
reactant | 3-aminomethylpyridine | NCC=1C=NC=CC1 | C6H8N2
reactant | methanol dichloromethane | CO.ClCCl
product | 2-[6-oxo-2-phenyl-5-[3-(3-pyridyl)methylureido]-1,6-dihydro-1-pyrimidinyl]-N-(2-tert-butyldimethysilyloxy-3,3,3-trifluoro-1-isopropylpropyl)acetamide | O=C1C(=CN=C(N1CC(=O)NC(C(C(F)(F)F)O[Si](C)(C)C(C)(C)C)C(C)C)C1=CC=CC=C1)NC(=O)NCC=1C=NC=CC1 | C31H41F3N6O4Si
